US04115572
Imidazo[1,5-d]-as-triazin-1(2H)-one
A mixture of 6.30 gm. of imidazole-4-carboxylic acid hydrazide [Jones et al., J.A.C.S. 71, 2444 (1949)], 63 ml. of triethyl orthoformate and 500 ml. of ethanol is stirred and refluxed for 81/2 hours. The mixture is concentrated in vacuo to a solid. A 100 ml. portion of diphenyl ether is added and the mixture is heated at 240° C. for 15 minutes. The mixture is cooled to room temperature, petroleum ether is added and a solid is collected. This solid is boiled with 150 ml. of methanol. The insoluble portion is collected by filtration and saved. The filtrate is evaporated to give a solid which is heated with 100 ml. of diphenyl ether at reflux for 15 minutes. Cooling to room temperature and the addition of petroleum ether produces a solid. This solid is combined with the above solid, boiled with 600 ml. of methanol and treated with charcoal. The mixture is filtered. The filtrate is boiled down to 35 ml. and cooled giving a solid. This solid is boiled with 50 ml. of ethanol and the hot mixture is filtered. The solid is boiled with 200 ml. of methanol and the insoluble solid is collected by filtration and saved. The filtrate is boiled down to 75 ml. and cooled giving a second solid. These two solids are combined giving the desire product, m.p. 294°-305° C.

reactant | imidazole-4-carboxylic acid hydrazide | N1C=NC(=C1)C(=O)NN | C4H6N4O
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | charcoal | C | CH4
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | Imidazo[1,5-d]-as-triazin-1(2H)-one | C1(C=2N(C=NN1)C=NC2)=O | C5H4N4O
